US06022492
Synthesis of 5-(2,3-difluoro-4-octylphenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine
The reaction of 2 mmol of 5-bromo2-(6-hexyloxypyridin-3-yl)pyrimidine, 2.2 mmol of 2,3-difluoro-4-octylphenylboronic acid, 4 mmol of sodium carbonate and 0.02 mmol of tetrakis(triphenylphosphine)palladium(0) in 14 ml of toluene, 7 ml of ethanol and 7 ml of water is carried out Analogously to the procedure indicated for Example 1a). The crude product is separated off by column chromatography on silica gel 60 using n-heptane/ethyl acetate 9:1 (v/v) as eluent and is recrystallized from acetonitrile, giving 0.77 g (80%) of colorless crystals, X 104 SC 94 SA 129 I.

reactant | 5-bromo2-(6-hexyloxypyridin-3-yl)pyrimidine | 2 mmol | BrC=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCC | C15H18BrN3O
reactant | 2,3-difluoro-4-octylphenylboronic acid | 2.2 mmol | FC1=C(C=CC(=C1F)CCCCCCCC)B(O)O | C14H21BF2O2
reactant | sodium carbonate | 4 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 7 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2,3-difluoro-4-octylphenyl)-2-(6-hexyloxypyridin-3-yl)pyrimidine | 0.77 g, 80% | FC1=C(C=CC(=C1F)CCCCCCCC)C=1C=NC(=NC1)C=1C=NC(=CC1)OCCCCCC | C29H37F2N3O
